US06673804B1
(1) (±)-2-[2-(1-Benzyloxymethyl-5-fluoropyrimidin-2,4-dione-3-yl)ethyl]-N-(tert-butoxycarbonyl)glycine Benzyl Ester
In a similar manner to that described in Example 1(1), a reaction was carried out using (±)-N-(tert-butoxycarbonyl)homoserine benzyl ester, instead of (±)-N-(tert-butoxycarbonyl)homoserine allyl ester, and using 1-benzyloxymethyl-5-fluoro-pyrimidin-2,4-dione instead of phthalimide, to afford the desired compound (yield 54%) as a pale yellow oil.

reactant | (±)-N-(tert-butoxycarbonyl)homoserine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CCO)=O | C16H23NO5
reactant | (±)-N-(tert-butoxycarbonyl)homoserine allyl ester | C(C=C)OC([C@@H](NC(=O)OC(C)(C)C)CCO)=O | C12H21NO5
reactant | 1-benzyloxymethyl-5-fluoro-pyrimidin-2,4-dione | C(C1=CC=CC=C1)OCN1C(NC(C(=C1)F)=O)=O | C12H11FN2O3
product | (±)-2-[2-(1-Benzyloxymethyl-5-fluoropyrimidin-2,4-dione-3-yl)ethyl]-N-(tert-butoxycarbonyl)glycine Benzyl Ester | yield 54% | C(C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)CCN1C(N(C=C(C1=O)F)COCC1=CC=CC=C1)=O)=O | C28H32FN3O7
